US07994163B2
Slurry 1H-[1,2,3]triazole-5-thiol sodium salt (465 mg, 3.78 mmol) in anhydrous DMF (20 mL). Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.1 g, 3.4 mmol) in anhydrous DMF (10 mL) dropwise over 10 min under nitrogen. Stir at room temperature for 3 h. Quench by addition of saturated NH4Cl (100 mL). Extract with EtOAc (3×50 mL) and dry the combined organic extracts with water and brine. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to obtain 3-tert-butoxycarbonyl-7-chloro-6-(3H-[1,2,3]triazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.2 g, 90%) as a yellow oil suitable for use without further purification.

reactant | 1H-[1,2,3]triazole-5-thiol sodium salt | 3.78 mmol, 465 mg | [Na].N1N=NC=C1S
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.4 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-(3H-[1,2,3]triazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.2 g, 90% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2NN=NC2 | C18H23ClN4O2S
